US06310056B1
To a solution 428 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethylimidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate in 30 ml of dichloromethane was added 1.03 g of manganese dioxide, and the mixture was stirred at room temperature for 18 hours. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue thus obtained was washed with diethyl ether to give 202.8 mg of 4-nitrobenzyl (5R,6S)-2-(7-formylimidazo[5,1-b]thiazol-3-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-hydroxymethylimidazo[5,1-b]thiazol-3-yl)-1-carbapen-2-em-3-carboxylate | 428 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C=2N3C(SC2)=C(N=C3)CO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O7S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 1.03 g | [O-2].[O-2].[Mn+4]
product | 4-nitrobenzyl (5R,6S)-2-(7-formylimidazo[5,1-b]thiazol-3-yl)-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate | 202.8 mg | C(=O)C=1N=CN2C1SC=C2C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O | C22H18N4O7S
